US08710063B2
2-[6-Chloro-8-(2-chlorophenyl)-2-methyl-purin-9-yl]acetonitrile
Heat a solution of 2-[6-chloro-8-(2-chlorophenyl)-2-methyl-purin-9-yl]acetamide (0.3 g, 0.8 mmol) and phosphoryl chloride (2.5 mL) at 110° C. for 16 h. Quench the reaction with aqueous sodium bicarbonate solution and extract with dichloromethane. Wash the organics with water and brine. Dry the organic layer over anhydrous sodium sulfate, filter, and concentrate to give the title compound (0.2 g). ES/MS m/z 318 (M+1).

reactant | 2-[6-chloro-8-(2-chlorophenyl)-2-methyl-purin-9-yl]acetamide | 0.8 mmol, 0.3 g | ClC1=C2N=C(N(C2=NC(=N1)C)CC(=O)N)C1=C(C=CC=C1)Cl | C14H11Cl2N5O
reactant | phosphoryl chloride | 2.5 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-[6-Chloro-8-(2-chlorophenyl)-2-methyl-purin-9-yl]acetonitrile | 0.2 g | ClC1=C2N=C(N(C2=NC(=N1)C)CC#N)C1=C(C=CC=C1)Cl | C14H9Cl2N5
